US07304074B2
The suspension of 6-methyl-[1,5]naphthyridin-4-ol (1.60 g, 9.99 mmol) in POCl3 (25 mL) was heated under refluxing for 2 hrs. After cooling to room temperature, the reaction mixture was quenched with ice water and basified with NH4OH followed by extraction with AcOEt. The organic layer was washed with brine and dried over NaSO4, and concentrated to give 8-chloro-2-methyl-[1,5]naphthyridine as a brown solid (1.2 g, 67%). HR-MS-EI (+) m/e calcd for C9H7N2Cl (M+) 178.0298. found 178.0297.

reactant | 6-methyl-[1,5]naphthyridin-4-ol | 9.99 mmol, 1.60 g | CC=1N=C2C(=CC=NC2=CC1)O | C9H8N2O
reactant | POCl3 | 25 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 8-chloro-2-methyl-[1,5]naphthyridine | 1.2 g, 67% | ClC=1C=CN=C2C=CC(=NC12)C | C9H7ClN2
